US06677368B2
3-[1-[3-(4-Cyclopropylamino-piperidine-1-carbonyl)-5-methyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one
To a solution of 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (105 mg, 0.29 mmol), EDC (120 mg, 0.58 mmol), HOBt (40 mg, 0.3 mmol) in DMF (4 mL) was added TEA 90.15 mL) and cyclopropyl-piperidin-4-yl-amine. The mixture was stirred at rt for 20 hours. The reaction was diluted with DCM, washed with water, NaHCO3, dried and concentrated. The residue was purified on a silica gel column to give the titled compound.

reactant | 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 0.29 mmol, 105 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H15FN2O3
reactant | EDC | 0.58 mmol, 120 mg
reactant | HOBt | 0.3 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropyl-piperidin-4-yl-amine | C1(CC1)NC1CCNCC1 | C8H16N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[1-[3-(4-Cyclopropylamino-piperidine-1-carbonyl)-5-methyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | C1(CC1)NC1CCN(CC1)C(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O | C29H29FN4O2
